US07872026B2
In a manner similar to that of Example 17b, by reaction of 760 mg (1.18 mmol) of ethyl 4′-[5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentyloxy]-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate with 230 μl (4.72 mmol) of hydrazine monohydrate in 50 ml of ethanol. 280 mg of ethyl 4′-(5-aminopentyloxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are obtained in the form of a whitish solid (yield=46%).

reactant | ethyl 4′-[5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentyloxy]-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 1.18 mmol, 760 mg | O=C1N(C(C2=CC=CC=C12)=O)CCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C42H45NO5
reactant | hydrazine monohydrate | 4.72 mmol, 230 μl | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 4′-(5-aminopentyloxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 280 mg | NCCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C34H43NO3
